US04361575
1-Methyl-2-[N-allyl-N-(2,6-dichloro-phenyl)-amino]-2-imidazoline by method C
A mixture consisting of 2.7 gm (0.01 mol) of 2-[N-allyl-N-(2,6-dichloro-phenyl)-amino]-2-imidazoline, 0.44 gm of a 55% sodium hydride dispersion and 25 ml of absolute tetrahydrofuran was refluxed for 5.5 hours while stirring, and the reaction mixture was allowed to stand overnight at room temperature. Thereafter, 1 ml of methyl iodide (about 160% of the stoichiometrically required amount) was added, and the mixture was refluxed for two hours. The reaction mixture was then evaporated to dryness in vacuo, the residue was dissolved in dilute (about 1 N) hydrochloric acid, and the resulting solution was extracted several times with ether (the ethereal extracts were discarded). The aqueous acidic phase was fractionally extracted with ether at stepwisely increasing pH-values (addition of 2 N sodium hydroxide). The thin-layer chromatographically uniform fractions were combined, dried over magnesium sulfate, and the ether was evaporated in vacuo, leaving 0.65 gm (23.0% of theory) of an initially oily residue which crystallized after a short period of time. The crystalline product had a melting point of 59°-61° C.

reactant | 2-[N-allyl-N-(2,6-dichloro-phenyl)-amino]-2-imidazoline | 0.01 mol, 2.7 gm | C(C=C)N(C1=C(C=CC=C1Cl)Cl)C=1NCCN1 | C12H13Cl2N3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 1 ml | CI | CH3I
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-Methyl-2-[N-allyl-N-(2,6-dichloro-phenyl)-amino]-2-imidazoline | CN1C(=NCC1)N(C1=C(C=CC=C1Cl)Cl)CC=C | C13H15Cl2N3
